* C:\Users\User\Documents\Projects\Electronics Simulations\Ltspice\Inverter\dVdt test.asc
V4 tri 0 PULSE(0 1 0 { 1/ (f_carrier*2) } { 1/ (f_carrier*2) } 0 {1/f_carrier}
V5 MotorU 0 SINE(0.5 {Amod/2} {f_motor} 0 0 180)
V6 MotorV 0 SINE(0.5 {Amod/2} {f_motor} 0 0 0)
B1 N002 0 V=if(V(MotorU)>=V(TRI), 0, 5)
B2 N005 0 V=if(V(MotorU)<V(TRI), 0, 5)
B3 N012 0 V=if(V(MotorV)>=V(TRI), 0, 5)
B4 N016 0 V=if(V(MotorV)<V(TRI), 0, 5)
S1 N006 N003 GateS1 0 SW
S2 N014 N006 GateS2 0 SW
S3 N007 N004 GateS3 0 SW
S4 N015 N007 GateS4 0 SW
R1 N008 U {motor_R}
L1 N008 N009 {motor_L}
V8 N009 V SINE(0 {motor_V} {f_motor} 0 0 0) Rser=1m
D7 N006 N003 VS-E5PH7506
D8 N014 N006 VS-E5PH7506
D9 N015 N007 VS-E5PH7506
D10 N007 N004 VS-E5PH7506
R5 N017 0 10Meg
R6 0 N001 10Meg
C3 GateS1 0 0.1µ
R7 GateS1 N002 1
R8 GateS2 N005 1
R9 GateS3 N012 1
R10 GateS4 N016 1
C4 GateS2 0 0.1µ
C5 GateS3 0 0.1µ
C6 GateS4 0 0.1µ
V1 N001 0 350 Rser=10m
V2 0 N017 350 Rser=10m
R2 V 0 10Meg
L2 N014 N017 1µ
L3 N015 N017 1µ
L4 N001 N003 1µ
L5 N001 N004 1µ
C2 V N013 1p
L6 N006 U 10n
L7 N007 V 10n
L8 0 N013 10n
C1 N006 N010 10p
C7 U N011 10p
C8 N010 0 10p
C9 N011 N013 10p
.model D D
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.dio
.param f_motor=47
.param f_carrier=10K
.param Amod=0.9
.param motor_L=200m
.param motor_R=500m
.param motor_V=397
* Sine PWM Control Signals
.model SW SW(Ron=10m Roff=10Meg Vt=2.5 Vh=-2)
* Motor
.tran 0 10m 5m uic
* R4, R5, R6 required for simulation
* C3 is capacitance between rotor and stator.
* Simple Cable Model
.backanno
.end
