* Ward Leonard Control System Example

* Constants
.param Vin = 100V          ; Input voltage
.param Rm = 2 Ohm         ; Motor resistance
.param Lm = 0.1 H         ; Motor inductance
.param Km = 0.01          ; Motor back EMF constant
.param J = 0.1            ; Moment of inertia of the system
.param B = 0.01           ; Damping coefficient
.param Rg = 10 Ohm        ; Generator resistance
.param Lg = 0.05 H        ; Generator inductance
.param Kg = 0.02          ; Generator voltage constant

* Circuit
V1 N1 0 DC {Vin}
Rm N1 N2 {Rm}
Lm N2 N3 {Lm}
Km N3 0 N2 {Km}
J1 N3 N4 {J}
B1 N4 0 {B}
Rg N4 N5 {Rg}
Lg N5 N6 {Lg}
Kg N6 0 N5 {Kg}
Rcomp N3 Ncomp 1 Ohm      ; Compensator resistance

* Ground node
Vgnd GND 0 0V             ; Ground node

* Simulation commands
.control
  tran 0.01s 5s           ; Transient analysis from 0 to 5 seconds
  plot v(N2) v(N5)        ; Plot motor and generator voltages
.endc

.end
